**********************************
**********************************
**
** Littelfuse, LP
** TRIAC SPICE Models
** L01-EV
**
** T. Chenoski
** Irving Technical Center
**
** A 06/08/08
**
**********************************
**********************************
.SUBCKT L0103DE    1	2		  3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    250
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       2.0
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.5
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=400)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0103ME    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    250
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       2.0
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.5
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=600)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0103NE    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    250
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       2.0
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.5
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=800)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0103DT    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    250
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       2.0
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.5
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=400)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0103MT    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    250
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       2.0
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.5
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=600)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0103NT    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    250
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       2.0
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.5
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=800)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0107DE    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    150
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       0.521
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.15
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=400)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0107ME    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    150
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       0.521
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.15
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=600)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0107NE    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    150
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       0.521
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.15
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=800)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0107DT    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    150
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       0.521
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.15
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=400)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0107MT    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    150
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       0.521
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.15
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=600)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0107NT    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    150
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       0.521
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.15
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=800)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0109DE    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    150
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       0.521
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.15
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=400)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0109ME    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    150
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       0.521
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.15
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=600)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0109NE    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    150
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       0.521
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.15
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=800)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0109DT    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    150
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       0.521
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.15
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=400)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0109MT    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    150
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       0.521
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.15
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=600)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS

.SUBCKT L0109NT    1    2         3
*       TERMINALS: MT2  G         MT1
Qnpn1   5          4    3         NoutF   OFF
Qpnp1   4          5    7         PoutF   OFF
Qnpn2   11         6    7         NoutR   OFF
Qpnp2   6          11   3         PoutR   OFF
Dfor    4          5    DZ        OFF
Drev    6          11   DZ        OFF
Rfor    4          6    12MEG
Ron     1          7    300m
Rhold   7          6    150
RGP     8          3    350
RG      2          8    150
RS      8          4    250
DN      9          2    DIN       OFF
RN      9          3    6.0
GNN     6          7    9         3       0.2
GNP     4          5    9         3       0.521
DP      2          10   DIP       OFF
RP      10         3    4.0
GP      7          6    10        3       0.15
.MODEL  DIN        D    (IS=382F)
.MODEL  DIP        D    (IS=382F  N=1.19)
.MODEL  DZ         D    (IS=382F  N=1.5   IBV=50U  BV=800)
.MODEL  PoutF      PNP  (IS=382F  BF=1    CJE=190p TF=0.3U)
.MODEL  NoutF      NPN  (IS=382F  BF=3    CJE=190p CJC=38p  TF=0.3U)
.MODEL  PoutR      PNP  (IS=382F  BF=5    CJE=190p TF=0.3U)
.MODEL  NoutR      NPN  (IS=382F  BF=0.5  CJE=190p CJC=38p  TF=0.3U)
.ENDS
